* Z:\mnt\spice-netlists\LT3922_DC2247A.asc
L1 IN N001 4.7µ
C4 N002 N001 .1µ
C2 OUT 0 4.7µ
C7 N013 0 .01µ
C6 N006 0 2.2µ
R9 N006 P001 100K
R1 N016 0 45.3K
R2 OUT N007 300m
R3 OUT N004 1Meg
R4 N004 0 33.2K
C5 N008 0 1µ
V1 IN 0 14
D§LED1 N012 0 LXHL-BW02 n=10
M1 N012 N009 N007 N007 IRF7343P
R6 IN N003 499K
R7 N003 N005 221k
R8 N005 0 31.6k
XU1 N001 N002 N006 IN N003 N005 N008 N010 OUT N007 N017 N004 N013 N011 P001 N016 N006 N014 N015 N009 OUT 0 LT3922
R5 N017 N018 24K
C3 N018 0 220p
C1 IN 0 4.7µ
R10 N008 N010 100K
R11 N014 0 332k
V2 N015 0 1.1
D1 0 N007 1N4148
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LT3922 - Synchronous, Low EMI LED Driver\nLow EMI, High Efficiency Boost LED Driver\nInput: 4V to 28V   Output: up to 34V LED @330mA
.lib LT3922.sub
.backanno
.end
