* Z:\mnt\spice-netlists\LT3952_DC2013A.asc
XU1 OUT N006 N008 0 NC_01 N002 N004 N013 N003 N003 N015 N014 N003 N005 N010 N012 0 MP_02 MP_03 N009 MP_04 MP_05 IN IN 0 N001 IN N007 LT3952
V1 IN 0 PWL(0 0 200u 12)
R6 IN N001 15m
L1 N001 N002 15µ
D1 N002 OUT 30BQ060
C6 N007 0 .47µ
R2 N014 0 287K
C4 N015 0 .047µ
C5 N009 0 2.2µ
D§LED1 N011 0 LXHL-BW02 n=15
M1 N011 N008 N006 N006 Si7113DN
R1 OUT N006 .75
R5 N004 0 22.6K
R4 OUT N004 1Meg
C1 IN 0 10µ
R3 N013 P001 3K
C3 P001 0 4.7n
C2 OUT 0 4.7µ
R7 N009 N010 100K
R8 N009 N012 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
* LT3952 - 60V LED Driver with 4A Switch Current\nShort-Circuit Robust Boost LED Driver\nInput: 7V to 42V     Output: 50V LED String @ 333mA Fsw = 350kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT3952.sub
.backanno
.end
