* Z:\mnt\spice-netlists\LT3957_DC1544A.asc
R1 N006 0 41.2K
R2 N009 0 15.8K
R3 OUT N009 226K
L1 IN N001 10µ
D1 N001 OUT MBRS130L
R4 N008 N007 6.8K
C2 N007 0 22n
V1 IN 0 12
C4 N004 0 .01µ
R5 N002 0 95.3K
R6 IN N002 200K
Rload OUT 0 40
XU1 N008 N009 N004 N006 N001 N005 N005 N003 N002 IN 0 0 LT3957
C1 OUT 0 22µ
C3 0 N003 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* LT3957 - Boost, Flyback, SEPIC and Inverting Converter\nInput: 12V       Output: 24V@600mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LT3957.sub
.backanno
.end
