* Z:\mnt\spice-netlists\LT3959_DC1853A.asc
C1 N009 N005 18n
R1 N008 N005 27.4K
C2 N006 N005 .05µ
V1 IN 0 PWL(0 0 .1m 10)
C3 N003 N005 4.7µ
R2 IN N002 200K
R3 N002 N005 332K
R4 IN N004 150K
L1 N001 IN 3.3µ
D1 N001 OUT DFLS220L
R5 OUT N007 102K
R6 N007 N005 15.8K
XU1 N009 N007 N006 N008 N001 N004 N005 MP_01 N003 OUT IN N002 0 LT3959
C4 OUT 0 22µ x4
Rload OUT 0 12
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m
* LT3959 - Wide Input Voltage Range Boost/SEPIC/Inverting Converter with 6A, 40V Switch\nWide Input Voltage Range Boost Converter\nInput: 2V to 10V       Output: 12V @ .5A to 2A ( 0.5A @ 2Vin, 1.0A @ 5Vin, 2.0A @ 9Vin)
* Note:\n  To reduce simulation time, a smaller SS capacitor (C2) was used. Typical value should be .33µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3959.sub
.backanno
.end
