* Z:\mnt\spice-netlists\LT3973_DC1730A.asc
L1 N002 OUT 15µ
R1 OUT N005 1Meg
R2 N005 0 316K
R3 N004 0 215K
C1 OUT 0 22µ
R4 OUT N003 200K
V1 IN 0 12
C2 OUT N005 10p
XU1 N005 OUT IN IN 0 N002 N001 OUT N003 N004 LT3973
C3 N002 N001 .22µ
Rload OUT 0 6.67
C4 IN 0 2.2µ
.tran 750u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3973 - 42V, 750mA Step-Down Regulator with 2.5µA Quiescent Current and Integrated Diodes\nµPower High Voltage Buck Regulator with Integrated Diodes\nInput: 5.6V to 42V       Output: 5V @ 750mA, Fsw = 600kHz
* (600kHz)
.lib LT3973.sub
.backanno
.end
