* Z:\mnt\spice-netlists\LT4180_DC1504A.asc
XU1 N019 N007 N018 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N016 N009 0 N014 N010 NC_07 0 0 0 MP_08 N013 N006 N002 MP_09 N001 LT4180
R1 N010 0 30.1K
C1 N014 0 0.002µ
C2 0 N019 1µ
R2 N001 N002 .02
R3 N001 N006 21.5K
R4 N006 N009 1.87K
R5 N009 N013 2.15K
R6 N013 0 5.36K
C3 N001 0 1µ
C4 N016 0 .01µ
L1 N008 N001 6.8µ
D1 0 N008 MBRS340
C5 N001 0 47µ x2
V1 IN 0 12
R7 N019 N015 31K
R8 N015 0 10K
C6 N008 N012 .47µ
R9 N011 0 68.1K
R10 IN N004 500K
C7 N004 0 .01µ
XU2 N001 N012 N008 IN N004 MP_10 NC_11 N015 N007 N011 0 LT3693
C8 N018 N007 47p
C9 N017 N007 0.0022µ
R11 N018 N017 33K
R12 N020 N007 1K
D2 N019 N020 CMDSH2-3
C10 N003 N005 1000µ
Rload N003 N005 1.67
Rcable1 N003 N002 .2
Rcable2 N005 0 .2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10ms startup
* To set Dither Frequency (in Simulation Only):\n  Once desired Dither frequency is known, \n  multiply it by 8 and set oscillator to run at\n  that frequency. \n  Ground all DIV pins.
* LT4180 - Virtual Remote Sense Controller\nLT3693 - 36V, 3.5A, 2.4MHz Step-Down Switching Regulator\nInput: 8V to 36V     Output: 5V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* Cable\nResistance
.lib LT3693.sub
.lib LT4180.sub
.backanno
.end
