* Z:\mnt\spice-netlists\LT8300_DC1825A.asc
XU1 N003 0 N004 N002 IN LT8300
V1 IN 0 48
R1 IN N003 806K
R2 N003 0 53.6K
L1 IN N002 400µ
L2 0 N001 7.91µ
R3 N002 N004 365K
D1 N001 OUT PMEG3010BEA
C1 OUT 0 100µ
C2 IN 0 2.2µ
R4 OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 0.998
.tran 4m startup
* LT8300 - 100Vin µPower Isolated Flyback Converter with 150V/260mA Switch\n100V µPower Isolated Flyback Converter\nInput: 22V to 75V       Output: 5V @ 0.25A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* 750312366
* Nps = 7.11:1
.lib LT8300.sub
.backanno
.end
