* Z:\mnt\spice-netlists\LT8301_DC2138A.asc
V1 IN 0 10
L1 IN N002 40µ
L2 0 N001 4.444µ
R3 N002 N004 154K
D1 N001 OUT MBRS360
C1 OUT 0 22µ
Rload OUT 0 7.14
XU1 N003 0 N004 N002 IN LT8301
R2 IN N003 1Meg
R4 N003 0 210K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 .998
.tran 6m startup
* LT8301 - 42Vin µPower No-Opto Isolated Flyback Converter with 65V/1.2A Switch\nµPower Isolated Flyback Converter\nInput: 10V to 32V       Output: 5V @ 0.7A, Fsw = 190kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* 750313974\nWurth Electronics\nNps = 3:1\nLpri = 40µH
.lib LT8301.sub
.backanno
.end
