* Z:\mnt\spice-netlists\LT8302_DC2014A.asc
Vin IN 0 24
R1 IN N003 1000K
R2 N003 0 200K
L1 IN N002 9µ
L2 0 N001 1µ
R4 N002 N004 158K
D1 N001 OUT B530C
C5 OUT 0 100µ
C1 IN 0 10µ
Rload OUT 0 2.27
C3 N005 0 1µ
R6 N006 0 10K
XU1 N003 N005 IN 0 N002 N004 N006 NC_01 LT8302
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 0.999
.tran 7.5m startup
* LT8302 - 42Vin µPower No-Opto Isolated Flyback Converter with 65V/3.6A Switch\nµPower No-Opto Isolated Flyback Converter\nInput: 10V to 30V       Output: 5V @ 2.2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* 750311564
* Nps = 3:1
.lib LT8302.sub
.backanno
.end
