* Z:\mnt\spice-netlists\LT8303_DC2490A.asc
V1 IN 0 48
L1 IN N002 150µ
L2 0 N001 4.2µ
R1 N002 N003 316K
D1 N001 OUT MBRS340
C1 OUT 0 47µ
Rload OUT 0 8
XU1 IN 0 N003 N002 IN LT8303
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 1
.tran 2.5m startup
* LT8303 - 100Vin µPower No-Opto Isolated Flyback Converter with 150V/0.45A Switch\nµPower No-Opto Isolated Flyback Converter\nInput: 36V to 72V       Output: 5V @ 0.65A to 0.84A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LT8303.sub
.backanno
.end
