* Z:\mnt\spice-netlists\LT8304_DC2393A.asc
V1 IN 0 48
C1 N004 0 1µ
L1 IN N002 40µ
L2 0 N001 1.111µ
D1 N001 OUT RBR5L40A
C2 OUT 0 47µ x3
C3 IN N002 270p
R1 N002 N003 309K
R2 N005 0 10K
R3 N005 N006 100K
Rload OUT 0 2.5
XU1 IN N004 IN 0 N002 N003 N005 N006 LT8304
C4 IN 0 18µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 1
.tran 5m startup
* LT8304 - 100Vin µPower No-Opto Isolated Flyback Converter with 150V/2A Switch\nµPower No-Opto Isolated Flyback Converter\nInput: 18V to 72V       Output: 5V @ 2A to 4.2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LT8304.sub
.backanno
.end
