* Z:\mnt\spice-netlists\LT8390_DC2431A.asc
C1 N017 0 .1µ
C2 N020 0 15000p
V1 IN 0 13
R1 N004 N005 1m
C3 N009 N004 .1µ
M§Q1 IN N002 N004 N004 BSC014N04LSI m=2
M§Q2 N004 N007 0 0 BSC010N04LSI
L1 N005 N006 3.3µ
R2 N001 OUT 3m
M§Q3 N001 N003 N006 N006 BSC009NE2LS5I
M§Q4 N006 N008 0 0 BSC015NE2LS5I m=2
C4 N006 N010 .1µ
R3 N019 0 309K
R4 OUT N012 110K
C5 N013 0 4.7µ
C6 N015 0 .47µ
XU1 N007 N009 N004 N002 N004 N005 IN N013 N011 MP_01 N015 N015 N015 N012 N001 N016 N014 N017 OUT N018 N019 0 NC_02 N001 N003 N006 N010 N008 0 LT8390
R5 N012 0 10K
R6 N014 N013 100K
R7 N011 0 56.2K
R8 IN N011 365K
C7 OUT 0 560µ x2
R9 N018 N020 15K
C8 IN 0 180µ x2
Rload OUT 0 .48
C9 N001 0 560µ x2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 12m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LT8390 - 60V Synchronous 4-Switch Buck-Boost Controller with Spread Sprectrum\nHigh Efficiency 250W Buck-Boost Regulator\nInput: 9V to 36V       Output: 12V @ 25A, Fsw = 150kHz
.lib LT8390.sub
.backanno
.end
