* Z:\mnt\spice-netlists\LT8391_DC2345A.asc
C1 N019 0 22n
C2 P001 0 10n
V1 IN 0 12
R1 N001 N002 4m
C3 N001 N004 0.1µ
M§Q1 IN N008 N001 N001 BSZ100N06LS3
M§Q2 N001 N006 0 0 BSZ100N06LS3
L1 N002 N003 4.8µ
R2 OUT N014 50m
M§Q3 OUT N009 N003 N003 BSC034N03LS
M§Q4 N003 N007 0 0 BSC034N03LS
C4 N005 N003 0.1µ
R3 N021 0 100K
R4 OUT N011 1Meg
C5 N012 0 4.7µ
C6 N015 0 0.47µ
R5 N011 0 34.8K
R6 N010 0 221K
R7 IN N010 499K
D§LED N017 0 LUW-W5AP N=7
C7 OUT 0 10µ x2
M1 N017 N016 N014 N014 Si7113DN
R8 N013 N012 100K
R9 N020 P001 2.2K
V2 N018 0 PWL(0 2 4m 2 4.1m 0.8 5.1m 0.8 5.2m 2)
XU2 N006 N004 NC_01 N008 NC_02 NC_03 IN N012 N010 N016 0 N015 N018 N011 OUT N015 N013 NC_04 N014 NC_05 NC_06 N012 0 OUT N009 NC_07 N005 N007 0 LT8391
C8 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* LT8391 - 60V Synchronous 4-Switch Buck-Boost LED Controller\n98% Efficient 50W Buck-Boost LED Driver\nInput: 4V to 60V       Output: 25V LED @ 2A, Fsw = 400kHz
.tran 6m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LT8391.sub
.backanno
.end
