* Z:\mnt\spice-netlists\LT8471_DC1854A.asc
R1 N010 0 187K
R2 0 N009 59K
R3 N009 OUT2 316K
R4 IN N005 499K
C1 N006 0 .01µ
C2 OUT2 0 47µ x2
V1 IN 0 22
L1 N007 0 10µ
C3 N008 0 .01µ
D1 OUT2 N007 MBRS360
R5 N011 IN 100K
R6 N012 IN 100K
C4 N001 0 2.2µ
C5 IN 0 2.2µ
D2 0 N002 MBRS340
L2 N002 OUT1 6.8µ
R7 N003 0 59K
R8 OUT1 N003 316K
C7 OUT1 0 47µ x2
L3 IN N004 15µ
XU1 IN N002 N001 N011 N003 N005 N010 N006 MP_01 0 MP_02 MP_03 N004 N001 N008 N009 N012 N001 N007 IN LT8471
Rload1 OUT1 0 3.6
Rload2 OUT2 0 6.25
C6 IN 0 2.2µ
C8 IN 0 47µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* LT8471 - Dual Multitopology DC/DC Converters with 2A Switches and Synchronization\nDual Output Buck & Inverting Converter\nInput: 6V to 32V     Output: +5V @ 1.4A & -5V @ 800mA, Fsw = 450kHz
* Note:\n  Smaller soft start capacitors (C1 & C3) are being used to speed up simulation. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* +5V @ 1.4A
* -5V @ 800mA
.lib LT8471.sub
.backanno
.end
